US04405617
A mixture of phosphorus pentachloride (5.3 g) in methylene chloride (80 ml) was cooled to 5° C. and thereto was added pyridine (2.0 g). The mixture was stirred for 30 minutes at room temperature and then cooled to 5° C. and thereto was added benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (8.0 g) to give a homogeneous solution. The obtained solution was stirred for 30 minutes at 5° C. and added to methanol (40.2 g) precooled to -30° C. The resulting mixture was stirred for 30 minutes without external cooling. The reaction mixture was evaporated and to the residue were added ethyl acetate and water. The mixture was adjusted to pH 7.0 with a saturated aqueous solution of sodium carbonate. The ethyl acetate layer was separated, washed with water (x3), dried over magnesium sulfate, treated with activated charcoal and evaporated under reduced pressine to give benzhydryl 7-amino-3-[ 1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate (6.17 g).

reactant | phosphorus pentachloride | 5.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 7-(2-phenylacetamido)-3-[1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 8.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C33H28N6O4S2
reactant | methanol | 40.2 g | CO | CH4O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-amino-3-[ 1-(2-propynyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylate | 6.17 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC#C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N6O3S2
